US07691892B2
e) 3-(5-{[Methyl-(4-methyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-amino]-methyl}-tetrazol-2-yl)-benzonitrile
The title compound is prepared from [2-(3-Iodo-phenyl)-2H-tetrazol-5-ylmethyl]-methyl-(4-methyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-amine (1 mmol), zinc cyanide (1.1 mmol), palladium (0) tetrakis-triphenylphosphine (0.05 mmol) in DMF (5 mL) at 80° C. overnight.

reactant | [2-(3-Iodo-phenyl)-2H-tetrazol-5-ylmethyl]-methyl-(4-methyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-amine | 1 mmol | IC=1C=C(C=CC1)N1N=C(N=N1)CN(C1=NN=C(N1C)C1=CC=NC=C1)C | C17H16IN9
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 1.1 mmol | [C-]#N.[Zn+2].[C-]#N
product | 3-(5-{[Methyl-(4-methyl-5-pyridin-4-yl-4H-[1,2,4]triazol-3-yl)-amino]-methyl}-tetrazol-2-yl)-benzonitrile | CN(C1=NN=C(N1C)C1=CC=NC=C1)CC=1N=NN(N1)C=1C=C(C#N)C=CC1 | C18H16N10
